US05726305
a) 2-Nitro-5-(2-propyloxy)benzyl alcohol
10 g (60 mmol) of 5-hydroxy-2-nitrobenzyl alcohol were reacted with 7.0 ml (70 mmol) of isopropyl iodide analogously to Example 4a); after purification over silica gel with n-heptane/ethyl acetate (3:2), 10.3 g of oily crude product.

reactant | 5-hydroxy-2-nitrobenzyl alcohol | 60 mmol, 10 g | OC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H7NO4
reactant | isopropyl iodide | 70 mmol, 7.0 ml | C(C)(C)I | C3H7I
product | 2-Nitro-5-(2-propyloxy)benzyl alcohol | [N+](=O)([O-])C1=C(CO)C=C(C=C1)OC(C)C | C10H13NO4
